US04710573
1-(ethoxycarbonyl-ethyl)-3-(1-methyl-4-piperidinyl)-1H-indazole
To a stirred suspension, under nitrogen, of 1.7 g of a 50% oil dispersion of sodium hydride in 75 ml of dimethylformamide was added, dropwise, 6.0 g of 3-(1-methyl-4-piperidinyl)-1H-indazole in 30 ml of hot dimethylformamide. Upon completion of the addition, the reaction mixture was stirred at ambient temperature for 1 hr and a solution of 6.5 g of ethyl 3-bromopropionate was added dropwise. The reaction mixture was stirred at ambient temperature for 3 hrs and then poured into water. The aqueous mixture was extracted with ethyl acetate and the extracts were washed with water, dried over anhydrous magnesium sulfate and filtered. Evaporation of the filtrate under vacuum gave 6.5 g (70.8%) of product, as an oil.

reactant | sodium hydride | [H-].[Na+]
reactant | 3-(1-methyl-4-piperidinyl)-1H-indazole | 6.0 g | CN1CCC(CC1)C1=NNC2=CC=CC=C12 | C13H17N3
reactant | ethyl 3-bromopropionate | 6.5 g | BrCCC(=O)OCC | C5H9BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(ethoxycarbonyl-ethyl)-3-(1-methyl-4-piperidinyl)-1H-indazole | 6.5 g, 70.8% | C(C)OC(=O)CCN1N=C(C2=CC=CC=C12)C1CCN(CC1)C | C18H25N3O2
